US05280126
A three-necked, 12-L round-bottom flask equipped with a mechanical stirrer, a thermometer and set up for distillation is charged with 2.6 L of toluene, 1.73 kg (12 mol) of methyl 4-methyl-3-oxopentanoate and 72 g (1.18 mol) of ethylene diamine. The mixture is heated to 80° C. and charged with 0.49 kg of aniline. The mixture is brought to reflux and distillation started. After 40 minutes a further 0.245 kg of aniline is charged and at 40 minute intervals a further two portions of aniline (0.245 and 0.25 kg) are charged. Distillation is continued for a further one to five hours until a total of 985 mL of solvent is removed. The solution is stirred at room temperature for 16 hours an a further 550 mL of solvent is removed by vacuum distillation (using approximately 85 mm Hg). The mixture is cooled and 2 L of water is charged to provide an oil. The mixture is warmed to 40° C. and a further 1.0 L of water is charged. Seven hundred milliliters of toluene-water mixture is removed by vacuum distillation (approximately 20 mm Hg). Two liters of water is charged and the mixture is allowed to stand for 10 days. The product is isolated by filtration and washed with three portions of hexane. Drying in vacuo gives 1.7 g of 4-methyl-3-oxo-N-phenylpentanamide as a hydrate; mp 46.5°-58.8° C.

reactant | toluene | 2.6 L | C1(=CC=CC=C1)C | C7H8
reactant | methyl 4-methyl-3-oxopentanoate | 12 mol, 1.73 kg | CC(C(CC(=O)OC)=O)C | C7H12O3
reactant | ethylene diamine | 1.18 mol, 72 g | C(CN)N | C2H8N2
reactant | aniline | 0.49 kg | NC1=CC=CC=C1 | C6H7N
solvent | water | 1.0 L | O | H2O
product | 4-methyl-3-oxo-N-phenylpentanamide | 1.7 g | CC(C(CC(=O)NC1=CC=CC=C1)=O)C | C12H15NO2
